US08372840B2
i) (3-Benzylamino-phenyl)-carbamic acid tert-butyl ester
A solution of (3-amino-phenyl)-carbamic acid tert-butyl ester (1 g, 4.8 mmol), benzaldehyde (0.54 ml, 5.3 mmol) and acetic acid (0.41 ml, 7.2 mmol) in dry tetrahydrofuran (30 ml) were stirred at room temperature for 2 hrs. Sodium borohydride (0.172 g, 4.5 mmol) was added and the reaction stirred at room temperature overnight. The reaction mixture was quenched with water (50 ml) and extracted with dichloromethane (3×50 ml). The combined organics were dried (magnesium sulphate), concentrated in vacuo and the crude residue purified by flash column chromatography (SiO2) eluting with ethyl acetate to afford the title compound as an off white solid (1.27 g, 89%) HPLC retention time 6.4 min. Mass spectrum (ES+) m/z 198 (M+H-BOC)

reactant | (3-amino-phenyl)-carbamic acid tert-butyl ester | 4.8 mmol, 1 g | C(C)(C)(C)OC(NC1=CC(=CC=C1)N)=O | C11H16N2O2
reactant | benzaldehyde | 5.3 mmol, 0.54 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 7.2 mmol, 0.41 ml | C(C)(=O)O | C2H4O2
reactant | Sodium borohydride | 4.5 mmol, 0.172 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (3-Benzylamino-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=CC=C1)NCC1=CC=CC=C1)=O | C18H22N2O2
